US09216182B2
a) 5-(3-hydroxypyrrolidin-1-yl)picolinonitrile
A mixture of 5-chloropicolinonitrile (2 g, 14.4 mmol), pyrrolidin-3-ol hydrochloride (2 g, 25.9 mmol) and K2CO3 (4 g, 28.9 mmol) in DMF (15 mL) was stirred at 140□ for 16 h. The organic solvent was removed under vacuum and the residue was taken into DCM (200 mL). Solid was removed by filtration and the filtrate was concentrated to give crude product (2.0 g yield 73%) as a yellow solid. [LCMS: RtA=1.19 min, m/z 190.2 [M+H]+].

reactant | 5-chloropicolinonitrile | 14.4 mmol, 2 g | ClC=1C=CC(=NC1)C#N | C6H3ClN2
reactant | pyrrolidin-3-ol hydrochloride | 25.9 mmol, 2 g | Cl.N1CC(CC1)O
reactant | K2CO3 | 28.9 mmol, 4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 5-(3-hydroxypyrrolidin-1-yl)picolinonitrile | 2.0 g, yield 73% | OC1CN(CC1)C=1C=CC(=NC1)C#N | C10H11N3O
